US05491237
A 5-liter 3-necked round-bottom flask equipped with an overhead mechanical stirrer and under nitrogen, is charged with tetrahydrofuran (1 L) and cooled to -78° C. To this stirred solution is added tert-butyllithium (1.7M in pentane, 800 mL, 1.36 mol) via canula followed by 2-methoxypyridine (132.2 g, 1.21 mol) in tetrahydrofuran at -78° C. The mixture is allowed to stir for one hr at -78° C. To the mixture is added N-formyl-N,N',N'-trimethylethylenediamine (176 mL, 1.37 mol) dropwise at -78° C. (prepared as in Comins, D. L.; Baevsky, M. F.; Hong, H. J. Am. Chem. Soc. 1992, 114, 10972). The reaction mixture is stirred for ca. 30 min at -78° C. before warming to -23° C. over ca. 30 min. To the mixture at -23° C. is added ethylene glycol dimethyl ether (1 L) followed by n-butyllithium (2.5M in hexanes, 800 mL, 2.0 mol). The resultant mixture is stirred for ca. 2 h during which time the reaction mixture turns deep green. A 12 liter 4-neck round bottom flask is equipped with an overhead mechanical stirrer under nitrogen, the 12 liter flask is charged with iodine (571 g, 2.25 mol) and ethylene glycol dimethyl ether (2 L) and the resultant solution is cooled to -78° C. The contents of the 5 liter flask are transferred via canula to the mixture of iodine and ethylene glycol dimethyl ether in the 12 liter flask at -78° C. After the addition is complete, the reaction mixture is stirred for 1 hr at -78° C. The cooling bath is removed and the mixture is allowed to warm to ca. 0° C. then treated with 2 L of water and 2 L of 1N hydrochloric acid. Methyl t-butyl ether (2 L) is added and the layers are separated. The aqueous layer is extracted with 2×1 L of methyl t-butyl ether. The combined organic extracts are washed with 1.2 L of saturated sodium thiosulfate solution followed by 1.2 L of saturated sodium chloride solution. The organic extracts are dried over sodium sulfate, filtered, and concentrated in vacuo to give a thick slurry. To the slurry is added 1 L of hexane resulting in the generation of additional precipitate. The mixture is cooled in an ice/water bath for ca. 30 min then filtered yielding 4-iodo-2-methoxy-pyridine-3-carbaldehyde. The filtrate is reconcentrated to a slurry and treated with hexane to generate additional precipitate again yielding 4-iodo-2-methoxy-pyridine-3-carbaldehyde. Chromatography (silica gel, 10% ethyl acetate/hexane) yields an analytical sample as a bright yellow solid: mp 98°-99° C. 1H-NMR (400 MHz, CDCl3) 10.21 (s, 1H), 7.86 (d, J=5 Hz, 1H), 7.54 (d, J=5 Hz, 1H), 4.06 (s, 3H); IR (CHCl3) 1710, 1560, 1470, 1380, 1305, 1260, 1025 cm-1 ; Elemental analysis: calculated for C7H6NO2I: C 31.97%, H 2.30, N 5.32, 1 48.25; Found: C 32.06, H 2.35; N 5.25, I 48.35.

reactant | tert-butyllithium | 1.36 mol, 1.7M, 800 mL | C(C)(C)(C)[Li]
reactant | 2-methoxypyridine | 1.21 mol, 132.2 g | COC1=NC=CC=C1 | C6H7NO
reactant | N-formyl-N,N',N'-trimethylethylenediamine | 1.37 mol, 176 mL | C(=O)N(CCN(C)C)C | C6H14N2O
reactant | n-butyllithium | 2.0 mol, 2.5M, 800 mL | C(CCC)[Li]
reactant | iodine | 2.25 mol, 571 g | II | I2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
solvent | hexane | 1 L | CCCCCC | C6H14
solvent | ethylene glycol dimethyl ether | COCCOC | C4H10O2
solvent | ethylene glycol dimethyl ether | 2 L | COCCOC | C4H10O2
solvent | ethylene glycol dimethyl ether | 1 L | COCCOC | C4H10O2
product | 4-iodo-2-methoxy-pyridine-3-carbaldehyde | IC1=C(C(=NC=C1)OC)C=O | C7H6INO2
